Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Actifed / Compazine
 
Attending: ___.
 
Chief Complaint:
toe pain and discoloration
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ male with long-standing
history of smoking and no known past medical history due to loss
to follow up who presents with 2 days of pain and discoloration
involving the ___ toe on the right. 

Symptoms first started with pain on weight-bearing involving the
___ toe on the right. This started ___ days ago and this morning
he noted new purple/black discoloration of the toe which he has
not experienced ever before. Pain continues to be limited to 
pain
on weight-bearing and ambulation but none at rest, although this
evening he noticed that he has had decreased sensation involving
the toe are only. He denies injury to the area or recent falls /
trauma. He denies prior history of skin discoloration or known
PVD/PAD. He actually denies fevers or chills at home that he
knows of, though notes that he tends to feel warm and sweaty
easily and likes to open a window at night to fall asleep. He
denies cool extremities per se, but does say that he works
outside in the cold all day and his feet to get cold because of
this. He does report intermittent pain in his calves bilaterally
but describes this as cramping that happens sometimes while
ambulating, but mostly at rest and he attributes this to muscle
cramps from being out of shape. 

He reports recent history of gross hematuria that first started
about a month ago, and has been coming and going intermittently
since. This is a new problem for him, but is not associated with
dysuria, urinary frequency or LUTS symptoms. He is concerned 
that
this was from injury related to history of rough sexual
intercourse and is concerned he might have had penile injury
related to this. 

He also reports progressively worsening abdominal discomfort
which he describes as extremely severe gas relieved by passage 
of
stool. This has been ongoing for the past ___ years but more
recently has been quite severe. He denies frank diarrhea. Though
notably, he does frequently take OTC Imodium for this increased
gas and states he's been taking a lot of it recently. He denies
melena or hematochezia. He also denies dyspepsia or hematemesis.
He also notes drinking a lot of coffee (including on arrival to
floor at midnight where his first request was a cup of coffee).
He notes 

He is a life-long smoker and continues to smoke 2 packs per day
with no prior attempts at smoking cessation or nicotine
replacement therapy. He hasn't seen a physician in years and
notes only a known history of ankle fractures, plantar fasciitis
and other minor presentations to the ED now and then. He does 
not
take any daily medications and hasn't had any blood-work done
recently including no HIV or HBV/HCV testing ever that he knows
of. He is ok with being tested for HIV.  

He reports a strong family history of CVD and Diabetes, 
including
mother with h/o quadruple bypass, diabetes and multiple strokes.
His father also had h/o MI, and his sister who is ___ year older
than him has also had history of MI requiring multiple stents. 
He
also notes a strong history of arthritis in the family, but is
unable to specify whether this is inflammatory versus
degenerative arthritis. 

In the ED: 
VS: Temp: 100 HR: 77 BP: 166/75 Resp: 18 O(2)Sat: 95 room air
ECG: NSR, normal axis normal intervals no ST or T-wave changes
PE: right foot exam with no ulcerations, there is some dark
erythema spreading up the foot. 2+ dp and pt pulses, no pain to
palpation, sensation intact
Labs: CRP 6.5, Hgb 16, WBC 9.3, lactate 1.2
Imaging: Xray of toe, CTA
Impression: possible embolic phenomena
Interventions:
Consults: Vascular Surgery: Completed 21:02
No source of possible embolus seen on CTA. Foot is warm with
palpable pulses, no acute limb ischemia or acute surgical issue.
Recommend embolic work-up. Thanks, ___ surg ___ 
Course:

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
Per chart review, prior documented history of HTN, h/o right
corneal injury, history of plantar fasciitis

 
Social History:
___
Family History:
Reviewed and found to be not relevant to this
illness/reason for hospitalization.

 
Physical Exam:
VITALS: Temp: 98.8 PO BP: 124/75 HR: 71 RR: 19 O2 sat: 97% on RA 

GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema. Oropharynx without
visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly
symmetric
SKIN: warm and dry. centrofacial erythema with phymatous changes
involving the nose
Right foot: There is a sharply demarcated area of reddish/purple
discoloration involving the entire right fifth toe, not raised,
without tenderness to palpation, with somewhat decreased
sensation to light touch. No blistering or open area, no
fluctuance, induration or purulent drainage, no malodor, no
gangrenous or necrotic skin changes noted on my exam
VASC: WWP. Both his DP and ___ pulses are intact. 
Skin: Warm and dry
NEURO: Alert, oriented, face symmetric, speech fluent, moves all
limbs
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
___ 07:50AM BLOOD WBC-8.6 RBC-5.57 Hgb-16.0 Hct-47.1 MCV-85 
MCH-28.7 MCHC-34.0 RDW-13.0 RDWSD-40.2 Plt ___
___ 07:50AM BLOOD Neuts-68.2 ___ Monos-8.5 Eos-1.2 
Baso-0.8 Im ___ AbsNeut-5.83 AbsLymp-1.79 AbsMono-0.73 
AbsEos-0.10 AbsBaso-0.07
___ 07:50AM BLOOD ___ PTT-34.1 ___
___ 07:50AM BLOOD Glucose-100 UreaN-17 Creat-0.9 Na-142 
K-4.6 Cl-102 HCO3-23 AnGap-17
___ 07:50AM BLOOD ALT-19 AST-16 LD(LDH)-164 CK(CPK)-139 
AlkPhos-79 TotBili-0.7
___ 07:50AM BLOOD TotProt-6.7 Albumin-4.6 Globuln-2.1 
Calcium-9.2 Phos-3.9 Mg-2.2 Cholest-251*
___ 07:50AM BLOOD %HbA1c-5.8 eAG-120
___ 07:50AM BLOOD Triglyc-97 HDL-43 CHOL/HD-5.8 
LDLcalc-189*
___ 07:50AM BLOOD HBsAg-NEG HBsAb-NEG
___ 07:50AM BLOOD ___ CRP-6.1*
___ 07:50AM BLOOD C3-135 C4-28
___ 07:50AM BLOOD HIV Ab-NEG
___ 07:50AM BLOOD HCV Ab-NEG
___ 04:22PM BLOOD Lactate-1.2

IMPRESSION: 
  
  
1. Three-vessel runoff bilaterally.  There is mild-to-moderate 
stenosis 
throughout the lower extremity vasculature, as described above. 
2. Plaque ulceration of the proximal left common iliac artery. 
3. Focal left-sided bladder wall thickening and enhancement is 
incompletely 
assessed.  A nonemergent dedicated CT urogram could be performed 
for more 
complete evaluation, to exclude underlying mass 

 
Brief Hospital Course:
Mr. ___ is a ___ male with long-standing history 
of smoking and no known past medical history due to loss to 
follow up who presents with 2 days of pain and discoloration 
involving the ___ toe on the right.  

R ___ toe injury NOS:
History reviewed.  It is unclear what caused the discoloration 
in his toe.  He may have injured the toe causing bruising.  He 
could have cholesterol emboli as well due to likely vascular 
disease.  He is a longtime smoker and appears to have 
dyslipidemia as well. At this time I see no evidence to support 
endocarditis or clear
vasculitis.  A basic evaluation was performed.  Vascular surgery 
did not think this was related to any ischemia or vascular 
issue.  Ultimately close new PCP follow ___ be needed in 
terms of risk factor modification.
- follow up exam of toe and consider podiatry referral if not 
improving.
- several studies pending on DC: ___, ANCA, PEP, blood and urine 
cx

Microscopic Hematuria:
This has been going on for sometime.  Given CT findings and 
significant smoking history, I am concerned about the 
possibility of malignancy.
- New PCP appointment to be arranged
- He will need CTU and urology referral.  This was discussed in 
detail with the patient and he expressed good understanding 
about the need for follow up

Smoking:
Nicotine replacement while hospitalized

Dyslipidemia:
Simvastatin 20mg daily started.  LFTs and CK  wnl.

 
Medications on Admission:
.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
2.  Simvastatin 20 mg PO QPM 
RX *simvastatin 20 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right ___ toe discoloration, NOS
Hyperlipidemia
PAD
Tobacco use

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for evaluation of a red/discolored right pinky 
toe.  Evaluation did not find infection or problems with your 
vascular supply.  We recommend watching your toe for 
improvement.

We did find that you have high cholesterol and will give you 
Simvastatin for this.  We also recommend an Aspirin 91mg daily.  
As we discussed, it is important for your health that you quit 
smoking.

Finally, as we discussed we saw blood in your urine and a 
thickened bladder. We strongly recommend that you have a CT scan 
of your bladder and follow up with a urologist.
 
Followup Instructions:
___